US08623889B2
To a solution of N-(7-(4-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)isoquinolin-3-yl)cyclopropanecarboxamide (43 mg, 0.11 mmol) in methanol (3 mL, 70 mmol) was added 4.0 M of hydrogen chloride in 1,4-dioxane (0.30 mL). The reaction mixture was stirred at 40° C. for 1 hour and then evaporated in vacuo. The residue was triturated with 0.5 mL N,N-dimethylformamide, and the resulting light yellow precipitate was collected, rinsed with ethyl acetate, and dried under vacuum to yield 17.3 mg (46%) of N-(7-(4-methyl-1H-pyrazol-5-yl)isoquinolin-3-yl)cyclopropanecarboxamide hydrochloride. LCMS (ESI): RT (min)=3.816, M+H=293.0, method=E; 1H NMR (400 MHz, DMSO-d6) δ 10.96 (s, 1H), 9.22 (s, 1H), 8.44 (s, 1H), 8.27 (s, 1H), 8.06 (d, J=8.8 Hz, 1H), 7.92 (d, J=8.7 Hz, 1H), 7.63 (s, 1H), 2.31 (s, 3H), 2.14-2.01 (m, 1H), 0.93-0.76 (m, 4H).

reactant | N-(7-(4-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.11 mmol, 43 mg | CC=1C=NN(C1C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C1OCCCC1 | C22H24N4O2
reactant | methanol | 70 mmol, 3 mL | CO | CH4O
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 0.30 mL | O1CCOCC1 | C4H8O2
product | N-(7-(4-methyl-1H-pyrazol-5-yl)isoquinolin-3-yl)cyclopropanecarboxamide hydrochloride | 17.3 mg, 46% | Cl.CC=1C=NNC1C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | InChI=1S/C17H16N4O.ClH/c1-10-8-19-21-16(10)13-5-4-12-7-15(18-9-14(12)6-13)20-17(22)11-2-3-11;/h4-9,11H,2-3H2,1H3,(H,19,21)(H,18,20,22);1H
